US06384234B1
Preparation of (2R-cis)-1-[[[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]amino]carbonyl]-4-hydroxy-2-pyrrolidinecarboxylic Acid
To a stirred solution of cis-4-hydroxy-D-proline (262 g, 2 mol) in 2 L of 1 N NaOH at 0° C. was added dropwise 1950 mL of a solution of 1-chloro-N-(2-chloro-4-fluoro-5-isocyanatophenyl)methanesulfonamide in methyl isobutyl ketone over 90 minutes. The temperature was kept between −3° C. and 5° C. The pH wag maintained at 8-9 by the addition of 550 mL of 10% NaOH. Stirring was continued at this temperature for another hour at pH 8 and then the two-phase mixture was allowed to come to room temperature. 70 mL of concentrated HCl was added in order to lower the pH to 6.5. After stirring for 20 minutes, the phases were separated. Methyl isobutyl ketone was added to the aqueous phase and the solution was acidified with concentrated hydrochloric acid to pH 2. After addition of solid sodium chloride and vigorous stirring the organic layer was separated. The solvent was removed to yield 775 g (90%) of the title compound (purity: 95-97% by HPLC). 1H NMR (Me2SO-d6) δ 12.4 (br s, 1H), 10.1 (br s, 1H), 8.2 (s, 1H), 7.7 (d, 1H), 7.5 (d, 1H), 5.1-5.0 (br s, 1H), 5.0-4.9 (s, 2H), 4.4 (m, 1H), 4.3 (m, 1H), 3.7-3.6 (m, 1H); 3.4-3.3 (m, 2H), 2.4-2.3 (m, 1H).

reactant | cis-4-hydroxy-D-proline | 2 mol, 262 g | O[C@@H]1C[C@@H](NC1)C(=O)O | C5H9NO3
reactant | 1-chloro-N-(2-chloro-4-fluoro-5-isocyanatophenyl)methanesulfonamide | ClCS(=O)(=O)NC1=C(C=C(C(=C1)N=C=O)F)Cl | C8H5Cl2FN2O3S
reactant | HCl | 70 mL | Cl | ClH
solvent | NaOH | 1 N, 2 L | [OH-].[Na+]
solvent | methyl isobutyl ketone | C(C(C)C)C(=O)C | C6H12O
solvent | NaOH | 550 mL | [OH-].[Na+]
product | (2R-cis)-1-[[[4-chloro-5-[[(chloromethyl)sulfonyl]amino]-2-fluorophenyl]amino]carbonyl]-4-hydroxy-2-pyrrolidinecarboxylic Acid | 775 g, 90% | ClC1=CC(=C(C=C1NS(=O)(=O)CCl)NC(=O)N1[C@H](C[C@H](C1)O)C(=O)O)F | C13H14Cl2FN3O6S
